US04888332
Preparation of 4-hydrazino-2-mercapto-6-methylpyrimidine
Hydrazine monohydrate (6.4 ml) was added dropwise to a suspension of 2,4-dimercapto-6-methylpyrimidine (7.0 g) in 100 ml of ethanol at room temperature, the mixture was refluxed for two hours, and the crystals formed upon cooling were collected by filtration and washed with 100 ml of ethanol, giving 6.4 g of the objective compound as yellow crystals.

reactant | Hydrazine monohydrate | 6.4 ml | O.NN
reactant | 2,4-dimercapto-6-methylpyrimidine | 7.0 g | SC1=NC(=CC(=N1)S)C | C5H6N2S2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-hydrazino-2-mercapto-6-methylpyrimidine | 6.4 g | N(N)C1=NC(=NC(=C1)C)S | C5H8N4S
